US07612114B2
(S)-6-{2-{Ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (S)-6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 2-chloro-1-piperidin-1-ylethanone (13 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (0.8 mg) was obtained.

reactant | pivalic acid (S)-6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC(=C(C=C1)O)F)=O | C31H34FNO5
reactant | 2-chloro-1-piperidin-1-ylethanone | 13 mg | ClCC(=O)N1CCCCC1 | C7H12ClNO
product | (S)-6-{2-{Ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 0.8 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@@H]1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)OCCN1CCCCC1)F | C33H41FN2O3
